US04525722
4,4' Di-t-Butoxycarbonyloxybenzil
To a solution of 4,4'-dihydroxybenzil (2.4 g, 10 m.mole) in methanol (15 ml) was added sodium hydroxide (0.8 g, 20 m.mole). To the magnetically stirred mixture was added di-t-butyl dicarbonate* (3.5 g, 20 m.mole). After stirring for 12 hours at ambient temperature the solvent was removed under reduced pressure. The residue was treated with ice-water (approximately 50 g) and the product extracted with three 25 ml portions of CH2Cl2. The organic extract was washed with dilute ice-cold NaOH solution, then with brine and dried over anhydrous magnesium sulfate. Removal of the solvent under reduced pressure gave white crystalline solid after crystallization from pentane at low temperature yielded 3.5 gm of crystalline product (melting point (mp)=82°-83°).

reactant | 4,4'-dihydroxybenzil | 2.4 g | OC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)O | C14H10O4
reactant | sodium hydroxide | 0.8 g | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methanol | 15 ml | CO | CH4O
product | 4,4' Di-t-Butoxycarbonyloxybenzil | 3.5 gm | C(C)(C)(C)OC(=O)OC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)OC(=O)OC(C)(C)C | C24H26O8
